US08133907B2
[(R)-1-(2-Fluoro-benzyl)-2-oxo-3-pyridin-2-yl-propyl]-carbamic acid tert-butyl ester
To a solution of 2-picoline (0.54 mL, 5.5 mmol) in 20 mL of THF at −52° C. is slowly added a 1.5 M solution of n-butyllithium in hexanes (3.6 mL, 5.5 mmol). The reaction is then warmed to 15° C. and is then immediately re-cooled to −52° C. To the reaction is added a solution of [(R)-2-(2-fluoro-phenyl)-1-(methoxy-methyl-carbamoyl)-ethyl]-carbamic acid tert-butyl ester (0.6 g, 1.8 mmol) in 4 mL of THF. The reaction is then is poured into 8 mL of a 2M solution of NaHSO4 in water. The solution is adjusted to pH7 by addition of pH7 buffer and the product is extracted into ether. The organic phase is dried over sodium sulfate, filtered, and concentrated under reduced pressure to give the title compound.

reactant | 2-picoline | 5.5 mmol, 0.54 mL | N1=C(C=CC=C1)C | C6H7N
reactant | n-butyllithium | C(CCC)[Li]
reactant | [(R)-2-(2-fluoro-phenyl)-1-(methoxy-methyl-carbamoyl)-ethyl]-carbamic acid tert-butyl ester | 1.8 mmol, 0.6 g | C(C)(C)(C)OC(N[C@H](CC1=C(C=CC=C1)F)C(N(C)OC)=O)=O | C16H23FN2O4
reactant | NaHSO4 | OS(=O)(=O)[O-].[Na+]
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | THF | 4 mL | C1CCOC1 | C4H8O
solvent | water | O | H2O
product | [(R)-1-(2-Fluoro-benzyl)-2-oxo-3-pyridin-2-yl-propyl]-carbamic acid tert-butyl ester | C(C)(C)(C)OC(N[C@@H](C(CC1=NC=CC=C1)=O)CC1=C(C=CC=C1)F)=O | C20H23FN2O3
